US03947595
CF3CH2OCF2CF2H (110 g.) was reacted with bromine (125 g.) by passing a mixture of the two diluted with a stream of nitrogen through a 12 inch × 1 inch glass tube heated to 475°C. The effluent product was condensed in a "Dry Ice" trap and purified by fractional distillation and preparative gas chromatography to give CF3CHBrOCF2CF2H., b.p. 80°C., nD25 1.3155. This product analyzed as follows:

reactant | CF3CH2OCF2CF2H | 110 g | C(F)(F)(F)COC(F)(F)C(F)F | C4H3F7O
reactant | bromine | 125 g | BrBr | Br2
reactant | Dry Ice | C(=O)=O | CO2
product | CF3CHBrOCF2CF2H | C(F)(F)(F)C(Br)OC(F)(F)C(F)F | C4H2BrF7O
